US03988326
The process was carried out in the same manner as in Example 21 using 2.2 g of mono-sodium phenylmalonate and 2.14 g of 7-amino-3-methyl-3-cephem4-carboxylic acid. 7-(α-Carboxyphenylacetamido)-3-methyl-3-cephem-4-carboxylic acid was afforded in a yield of 2.1 g (56%).

reactant | mono-sodium phenylmalonate | 2.2 g | C1(=CC=CC=C1)C(C(=O)[O-])C(=O)O.[Na+]
reactant | 7-amino-3-methyl-3-cephem4-carboxylic acid | 2.14 g | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
product | 7-(α-Carboxyphenylacetamido)-3-methyl-3-cephem-4-carboxylic acid | C(=O)(O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O)C1=CC=CC=C1 | C17H16N2O6S
